US04604397
9-Methoxy-4-propyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridin-2-one is heated with lithium aluminium hydride in ether. The resulting product is hydrogenated in ethanol in the presence of 10% palladium on carbon catalyst to give 9-methoxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine.

reactant | 9-Methoxy-4-propyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridin-2-one | COC=1C=CC2=C(C1)C=1C(N(CC(C1)=O)CCC)CO2 | C16H19NO3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 9-methoxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine | COC=1C=CC2=C(C1)C1C(N(CCC1)CCC)CO2 | C16H23NO2
